US07947683B2
4-methyl-4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)pentanal
To a solution of 4-methyl-4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)-1-pentanol (11 mg, 0.04 mmol) in DCM (0.5 ml) was added Dess Martin reagent (22 mg). The solution was stirred at r.t. for 2 h, then Na2S2O3 (68 mg) was added and the mixture stirred for 30 minutes more. The mixture was diluted in DCM and washed with water. The organic phase was recovered and dried over Na2SO4. After filtration, volatiles were evaporated in vacuo to give 11 mg of the title compound as pale yellow oil, which was used without further purification. MS (m/z): 258[MH]+.

reactant | 4-methyl-4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)-1-pentanol | 0.04 mmol, 11 mg | CC(CCCO)(C)C1=NN=C(N1C)C1=CC=CC=C1 | C15H21N3O
reactant | Dess Martin reagent | 22 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 68 mg | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)pentanal | 11 mg | CC(CCC=O)(C)C1=NN=C(N1C)C1=CC=CC=C1 | C15H19N3O
